US05523439
In the same manner as in Example 9, 21.0 g of 4-(p-fluorophenyl)-1,1-dichloro-1-silacyclohexane was obtained from 4-(p-fluorophenyl)-1,1-diphenyl-1-silacyclohexane obtained in Preparatory Example 5. A mixture of 50.0 g of methanol and 30 g of triethylamine was added to the solution obtained above, followed by agitation under reflux for 1 hour. The resultant solution was concentrated, to which 200 ml of hexane was added thereby permitting secondarily produced hydrochloride to be precipitated. The precipitate was removed by filtration and the resulting filtrate was concentrated to obtain a mixture of 4-(p-fluorophenyl)-1,1-dimethoxy-1-silacyclohexane and acetophenone. The mixture was subjected to distillation under reduced pressure to remove the acetophenone therefrom. The resultant residue was dissolved in 100 ml of THF and added to a solution of 10.0 g of lithium aluminium hydride in 100 ml of THF. The reaction mixture was agitated under reflux for 1 hour, which was poured into 200 ml of 5% hydrochloric acid and extracted with ethyl acetate. The ethyl acetate solution was washed with brine, dried and concentrated by a usual manner, followed by purification through silica gel chromatography to obtain 14.7 g of 4-(p-fluorophenyl)-1-silacyclohexane. Subsequently, 14.0 g of 4-(p-fluorophenyl)-1-silacyclohexane was added to 100 ml of toluene, into which chlorine gas was blown to obtain 4-(p-fluorophenyl)-1-chloro-1-silacyclohexane. This solution was dropped in 100 ml of a THF solution of 1 mole/liter of trans-2-(4-n-propylcyclohexyl)ethylmagnesium bromide at room temperature. The reaction mixture was charged into 200 ml of 5% hydrochloric acid and extracted with ethyl acetate. The ethyl acetate solution was washed with brine, dried and concentrated, followed by purification through silica gel chromatography to obtain 20.8 g of the intended product. The thus obtained product exhibited nematic liquid crystal properties at a temperature between 49.1° C. and 62.9° C. and was found to be very useful as a liquid crystal substance.

reactant | 4-(p-fluorophenyl)-1-silacyclohexane | 14.0 g | FC1=CC=C(C=C1)C1CC[SiH2]CC1 | C11H15FSi
reactant | chlorine | ClCl | Cl2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(p-fluorophenyl)-1-chloro-1-silacyclohexane | FC1=CC=C(C=C1)C1CC[SiH](CC1)Cl | C11H14ClFSi
